US06235731B1
2) Synthesis of 1-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepine dihydrochloride
To 5.41 g (5.41 g (16.99 mmol.) of tert-butyl 4-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepine-1-carboxylate was added, at room temperature, 5 ml (60 mmol.) of 12N hydrochloric acid. The mixture was stirred for 2 hours. To the reaction system was added ethanol, then the solvent was distilled off under reduced pressure to give the object compound as a pale yellow amorphous product. The yield was 5.65 g (100%).

reactant | tert-butyl 4-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepine-1-carboxylate | 16.99 mmol, 5.41 g | C1(=CC=CC=C1)CCCN1CCN(CCC1)C(=O)OC(C)(C)C | C19H30N2O2
reactant | hydrochloric acid | 60 mmol, 12N, 5 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-phenylpropan-1-yl)-2,3,5,6-tetrahydro-7H-1,4-diazepine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCN1CCNCCC1 | InChI=1S/C14H22N2.2ClH/c1-2-6-14(7-3-1)8-4-11-16-12-5-9-15-10-13-16;;/h1-3,6-7,15H,4-5,8-13H2;2*1H
